US05574055
932 mg (2.6 mmol) of (R)-3-[trans-4-[4-(5-methoxymethyl-2-oxo-oxazolidin-3-yl)-phenyl]-cyclohexyloxy]-propionitrile were dissolved in 60 ml of methanol saturated with dry ammonia gas and hydrogenated in the presence of 0.9 g of Raney-nickel (Type B 113W Degussa). After 3 hours the catalyst was filtered off under suction and the filtrate was evaporated. The residue was dissolved in methylene chloride, washed with water, dried over sodium sulfate, filtered and evaporated. The base was dissolved in alcohol and made acid with ethereal hydrochloric acid. After recrystallization from alcohol-ether there were obtained 825.2 mg of (R)-3-[trans-4-(3-amino-propoxy)-cyclohexyl]-phenyl]-5-methoxymethyl-oxazolidin-2-one.HCl. M.p.: 178°-180°. [α]D =-29.78° (c=1% in CHCl3).

reactant | (R)-3-[trans-4-[4-(5-methoxymethyl-2-oxo-oxazolidin-3-yl)-phenyl]-cyclohexyloxy]-propionitrile | 2.6 mmol, 932 mg | COC[C@H]1CN(C(O1)=O)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)OCCC#N | C20H26N2O4
solvent | methanol | 60 ml | CO | CH4O
solvent | ammonia | N | H3N
catalyst | Raney-nickel | 0.9 g | [Ni] | Ni
product | 5-methoxymethyl-oxazolidin-2-one | COCC1CNC(O1)=O | C5H9NO3
